US04224052
Preparation of 4-Chloro-2-butynyl 4-Cyano-3,4-diphenylbutyrate
Thionyl chloride (3.56 g, 30.0 mmol) was added via syringe over a 5 min period to a stirred solution of 8.00 g (24.0 mmol) of 4-hydroxy-2-butynyl 4-cyano-3,4-diphenylbutyrate in 2.4 ml of pyridine at 0°. The reaction mixture was stirred at room temperature for 2 hours in a flask equipped with a Drierite tube. The mixture was diluted with 40 ml of ether and 100 ml of methylene chloride and was washed sequentially with 40 ml of hydrochloric acid, 40 ml of saturated aqueous sodium bicarbonate, three 40-ml portions of water and 40 ml of saturated aqueous sodium chloride. The organic phase was dried (MgSO4), filtered, stripped and purified by column chromatography on silica gel (hexanes/methylene chloride) to yield 2.11 g (25%) of the title compound. The infrared and nmr spectra are in accord with the assigned structure.

reactant | Thionyl chloride | 30.0 mmol, 3.56 g | S(=O)(Cl)Cl | Cl2OS
reactant | 4-hydroxy-2-butynyl 4-cyano-3,4-diphenylbutyrate | 24.0 mmol, 8.00 g | C(#N)C(C(CC(=O)OCC#CCO)C1=CC=CC=C1)C1=CC=CC=C1 | C21H19NO3
solvent | pyridine | 2.4 ml | N1=CC=CC=C1 | C5H5N
solvent | ether | 40 ml | CCOCC | C4H10O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-Chloro-2-butynyl 4-Cyano-3,4-diphenylbutyrate | 2.11 g, 25% | C(#N)C(C(CC(=O)OCC#CCCl)C1=CC=CC=C1)C1=CC=CC=C1 | C21H18ClNO2
